US08293768B2
Synthesis of ethyl 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate
To a suspension of ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate (1.02 g, 4.00 mmol), tetra-n-butylammonium iodide (0.10 g) and potassium carbonate (0.90 g, 6.50 mmol) in acetone (80 mL) was added cyclopropylmethyl bromide (0.6 mL, 6.18 mmol). The reaction mixture was heated to reflux for 72 hours. The solvent was removed in vacuo, and the residue was washed with water (100 mL) and hexanes (30 mL) to afford the title compound in 96% yield (1.20 g): 1H NMR (300 MHz, CDCl3) δ 4.23 (q, J=7.2 Hz, 2H), 4.07 (t, J=7.8 Hz, 2H), 3.67 (t, J=7.8 Hz, 2H), 3.16 (d, J=6.9 Hz, 2H), 2.58 (s, 3H), 1.28 (t, J=7.2 Hz, 3H), 0.97-0.88 (m, 1H), 0.59-0.42 (m, 2H), 0.25-0.12 (m, 2H); MS (ES+) m/z 310.3 (M+1).

reactant | ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | 4.00 mmol, 1.02 g | CC=1N=C(SC1C(=O)OCC)N1C(NCC1)=O | C10H13N3O3S
reactant | potassium carbonate | 6.50 mmol, 0.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopropylmethyl bromide | 6.18 mmol, 0.6 mL | C1(CC1)CBr | C4H7Br
catalyst | tetra-n-butylammonium iodide | 0.10 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetone | 80 mL | CC(=O)C | C3H6O
product | ethyl 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | 96% yield | C1(CC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O | C14H19N3O3S
